US09302989B2
methyl 2-(4-(pyridin-3-yl)benzylamino)thiazole-5-carboxylate
In a 250 mL round-bottomed flask was added 4-(pyridin-3-yl)benzaldehyde (4 g, 21.83 mmol), methyl 2-aminothiazole-5-carboxylate (3.45 g, 21.83 mmol), and acetic acid (0.375 ml, 6.55 mmol) in toluene (109 ml). The mixture was heated at reflux under Dean-Stark conditions for 3 hours, cooled, concentrated and redissolved in methanol. The mixture was cooled to 0° C. and sodium borohydride (1.322 g, 34.9 mmol) was carefully added. The mixture was warmed to room temperature and the resulting suspension was filtered with water washes to provide the title compound after drying.

reactant | 4-(pyridin-3-yl)benzaldehyde | 21.83 mmol, 4 g | N1=CC(=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | methyl 2-aminothiazole-5-carboxylate | 21.83 mmol, 3.45 g | NC=1SC(=CN1)C(=O)OC | C5H6N2O2S
reactant | acetic acid | 6.55 mmol, 0.375 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 34.9 mmol, 1.322 g | [BH4-].[Na+]
solvent | toluene | 109 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(4-(pyridin-3-yl)benzylamino)thiazole-5-carboxylate | N1=CC(=CC=C1)C1=CC=C(CNC=2SC(=CN2)C(=O)OC)C=C1 | C17H15N3O2S
